US09428470B2
F) Di-tert-butyl 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate
1,1-Di-tert-butoxy-N,N-dimethylmethanamine (22.11 g) was added dropwise to a mixture of 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid (9.75 g) and toluene (100 mL) at 100 C, and the obtained mixture was stirred at 100 C for 30 minutes. Further, 1,1-di-tert-butoxy-N,N-dimethylmethanamine (5.53 g) was added thereto, and the obtained mixture was stirred at 100 C for 30 minutes. Further, 1,1-di-tert-butoxy-N,N-dimethylmethanamine (2.211 g) was added thereto, and the obtained mixture was stirred at 100 C for 30 minutes. The reaction mixture was concentrated under reduced pressure, and then, the residue was purified by silica gel column chromatography (ethyl acetate/hexane). The obtained residue was washed with hexane to obtain the title compound (5.73 g).

reactant | 1,1-Di-tert-butoxy-N,N-dimethylmethanamine | 22.11 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid | 9.75 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(CC(=O)O)CC(=O)O)Br | C20H18BrNO6
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 5.53 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 2.211 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Di-tert-butyl 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 5.73 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)Br | C28H34BrNO6
